US04022909
DMAMP 118 g (1 mole) and commercial grade caprylic acid 131 g (1 mole) were dissolved in 35 ml of toluene. The mixture was heated under reflux at about 140°-165° until 20 ml distillate was recovered and no more was being collected. The pressure was then reduced to 10mm and distillation was continued to about 130° C to strip off toluene and water. The pressure was then reduced to about 1 mm and the main product fraction was recovered at a liquid temperature of about 106°-109°. There was obtained 2-dimethylamino-2-methyl-1-propyl caprylate, neutral equivalent 247.9 compared with theoretical 244.

reactant | DMAMP | 1 mole, 118 g | CC(C)(CO)N(C)C | C6H15NO
reactant | caprylic acid | 1 mole, 131 g | C(CCCCCCC)(=O)O | C8H16O2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2-dimethylamino-2-methyl-1-propyl caprylate | C(CCCCCCC)(=O)OCC(C)(C)N(C)C | C14H29NO2
